US06964974B2
A suspension of 83 mg (0.198 mmol) of Methyl-propyl-{4-[1-(4-trifluoromethyl-benzenesulfonyl)-piperidin-4-yl]-but-3-ynyl}-amine in 4 ml EtOH and 8 mg of PtO2.H2O was hydrogenated (1 atm) for 7 h. The reaction was filtered and evaporated. Flash column chromatography on silica gel (CH2Cl2/MeOH 19:1 to 9:1) gave 78 mg (93%) of Methyl-propyl-{4-[1-(4-trifluoromethyl-benzenesulfonyl)-piperidin-4-yl]-butyl}-amine, mp: 73.0-74.8° C., MS: 421 (MH+).

reactant | Methyl-propyl-{4-[1-(4-trifluoromethyl-benzenesulfonyl)-piperidin-4-yl]-but-3-ynyl}-amine | 0.198 mmol, 83 mg | CN(CCC#CC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CCC | C20H27F3N2O2S
solvent | EtOH | 4 ml | CCO | C2H6O
catalyst | PtO2.H2O | 8 mg | O=[Pt]=O.O
product | Methyl-propyl-{4-[1-(4-trifluoromethyl-benzenesulfonyl)-piperidin-4-yl]-butyl}-amine | 78 mg, 93% | CN(CCCCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CCC | C20H31F3N2O2S
